US05962718
In 50 ml of diethyl ether, 5.01 g (31.5 mmol) of dichloro(phenyl)borane is cooled to -78° C. and a solution of 7.70 g (63.1 mmol) of indenyllithium in 50 ml of diethyl ether is added dropwise within one hour. After warming to room temperature, the mixture is filtered, and the slightly yellow filtrate is highly concentrated in vacuo. Gradual cooling from 0° C. to -20° C. results in the formation of 7.45 g (74%) of bis(indenyl) (phenyl)borane in the form of colorless crystals.

reactant | dichloro(phenyl)borane | 31.5 mmol, 5.01 g | ClB(C1=CC=CC=C1)Cl | C6H5BCl2
reactant | indenyllithium | 63.1 mmol, 7.70 g | C1(C=CC2=CC=CC=C12)[Li]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | bis(indenyl) (phenyl)borane | 7.45 g, 74% | C1(C=CC2=CC=CC=C12)B(C1=CC=CC=C1)C1C=CC2=CC=CC=C12 | C24H19B
